### PR TITLE
[Merged by Bors] - feat: add pow_sub_one_dvd_differentIdeal

### PR DESCRIPTION
**Pull request by riccardobrasca**
From flt-regular.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/Different.lean [hunk 1]
```diff
@@ -568,3 +570,72 @@ lemma aeval_derivative_mem_differentIdeal [NoZeroSMulDivisors A B]
...
+  have : p.map (algebraMap A B) ∣ a ^ e := by
+    obtain ⟨b, hb⟩ := hP
+    apply_fun (· ^ e : Ideal B → _) at ha
+    apply_fun (· ^ (e - 1) : Ideal B → _) at hb
+    simp only [mul_pow, ← pow_mul, mul_comm e] at ha hb
+    conv_lhs at ha => rw [← Nat.sub_add_cancel (Nat.one_le_iff_ne_zero.mpr he)]
+    rw [pow_add, hb, mul_assoc, mul_right_inj' (pow_ne_zero _ hPbot), pow_one, mul_comm] at ha
+    exact ⟨_, ha.symm⟩
+  suffices ∀ x ∈ a, intTrace A B x ∈ p by
+    · have hP : ((P ^ (e - 1) : _)⁻¹ : FractionalIdeal B⁰ L) = a / p.map (algebraMap A B) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/DedekindDomain/Different.lean:597]: You don't need the bullet point, right? So this whole subproof can be de-indented 1 level.

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by riccardobrasca** [comment]
bors merge
